US07635715B2
Step F: Preparation of N-((7-Chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
The mixture of 1,1-dimethylethyl N-((7-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (2.23 g, 5 mmol) in TFA (8 mL, 108 mmol) was stirred at room temperature for 20 minutes. The majority of the TFA was removed in vacuo and then water was added. The resulting precipitate was filtered and washed with water to give the desired product as a white solid (1.13 g). MS (m/e)=366.1 (M+H)+. Calculated for C17H16ClNO6 365.07.

reactant | 1,1-dimethylethyl N-((7-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 5 mmol, 2.23 g | ClC1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H24ClNO6
reactant | TFA | 108 mmol, 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((7-Chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 1.13 g | ClC1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)O)O | C17H16ClNO6
